US08865698B2
To a methanol (1 mL) solution of (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-methylpicolinamide (10.3 mg, 0.0237 mmol) was added HCl as a solution is dioxane (30 μL). After 30 minutes, the reaction was concentrated to provide (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-methylpicolinamide hydrochloride as a yellow solid.

reactant | methanol | 1 mL | CO | CH4O
reactant | (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-methylpicolinamide | 0.0237 mmol, 10.3 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(C2=NC=CC=C2C)=O | C23H20F2N6O
reactant | HCl | Cl | ClH
solvent | dioxane | 30 μL | O1CCOCC1 | C4H8O2
product | (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-methylpicolinamide hydrochloride | Cl.FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(C2=NC=CC=C2C)=O | InChI=1S/C23H20F2N6O.ClH/c1-14-4-2-9-26-21(14)23(32)28-18-13-27-31-11-8-20(29-22(18)31)30-10-3-5-19(30)16-12-15(24)6-7-17(16)25;/h2,4,6-9,11-13,19H,3,5,10H2,1H3,(H,28,32);1H/t19-;/m1./s1
